2165-11-11 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2165-11-11**] 12:05 AM
   placed and verified.  new iv tubing, cvp open at 5
   - CVL placed, CXR shows appropriate position.
   - Following ID recs, and Plastics and Surgery recs.
   - Zosyn, Vanc and Clinda started
   - Fluid resuscitation to match CVPs.
   - Echo tomorrow.
   - Following chest CT report.
   Allergies:
   Ativan (Oral) (Lorazepam)
   Unknown; 3 out
   Latex
   Unknown; Rash;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2165-11-11**] 12:55 AM
   Clindamycin - [**2165-11-11**] 12:55 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2165-11-10**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-11**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 113 (113 - 133) bpm
   BP: 115/65(76) {106/58(73) - 149/80(97)} mmHg
   RR: 10 (8 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.6 kg (admission): 82.6 kg
    CVP: 1 (1 - 8)mmHg
   Total In:
                                                                  5,360 mL
                                                                    990 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,400 mL
                                                                    750 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                  1,100 mL
   Urine:
                                                                    850 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,510 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
                            [**2165-11-10**]  11:00 PM
   TropT
   <0.01
   Other labs: CK / CKMB / Troponin-T:294/15/<0.01, ALT / AST:213/125, Alk
   Phos / T Bili:60/0.3, Albumin:2.0 g/dL, LDH:1209 IU/L
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-11-10**] 08:36 PM
   18 Gauge - [**2165-11-10**] 08:38 PM
   Multi Lumen - [**2165-11-11**] 12:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-11-11 10:58:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2165-11-11**] 12:05 AM
   placed and verified.  new iv tubing, cvp open at 5
   Somnulant, improved with Narcan.
   Overnight, evaluated by Surgery and Plastic Surgery for cellulitis of
   legs and scrotum.  ID evaluated.
                          History obtained from Medical records
   Allergies:
   Ativan (Oral) (Lorazepam)
   Unknown; 3 out
   Latex
   Unknown; Rash;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2165-11-11**] 06:22 AM
   Clindamycin - [**2165-11-11**] 06:23 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2165-11-10**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine,
   Steroids
   Signs or concerns for abuse : No
   Pain: [**1-23**] Minimal
   Pain location: Leg pain
   Flowsheet Data as of  [**2165-11-11**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 127 (111 - 133) bpm
   BP: 115/67(79) {106/58(73) - 149/80(97)} mmHg
   RR: 26 (8 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.6 kg (admission): 82.6 kg
   CVP: 10 (1 - 10)mmHg
   Total In:
                                                                  5,360 mL
                                                                  2,476 mL
   PO:
                                                                    960 mL
                                                                    720 mL
   TF:
   IVF:
                                                                  1,400 mL
                                                                  1,756 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                  1,770 mL
   Urine:
                                                                    850 mL
                                                                  1,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,510 mL
                                                                    706 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : ), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Erythema or legs, scrotum
   and lower abd and flank.  Multiple focal eschars on fingeres and hands.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.4 g/dL
   290 K/uL
   138 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   19 mg/dL
   102 mEq/L
   136 mEq/L
   30.7 %
   9.6 K/uL
        [image002.jpg]
                            [**2165-11-10**]  11:00 PM
                            [**2165-11-11**]  03:49 AM
   WBC
   9.6
   Hct
   30.7
   Plt
   290
   Cr
   0.6
   TropT
   <0.01
   <0.01
   Glucose
   138
   Other labs: CK / CKMB / Troponin-T:87/15/<0.01, ALT / AST:213/125, Alk
   Phos / T Bili:60/0.3, Lactic Acid:2.8, Albumin:2.0 g/dL, LDH:1209 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Microbiology: Blood cultures GPC
   Assessment and Plan
   Sepsis.
   RESPIRATORY DISTRESS -- related to narcotics use. Improved.  Monitor
   RR, SaO2.
   SEPSIS -- bacteremia; concerns include cellulitis (?[**Last Name (un) 2853**]), left
   foot ulcer infection (osteomyelitis), and myo- or pericarditis.
   BACTEREMIA -- likley skin source.  Empirical antimicrobials pending
   identification.  Multiple eschars on fingers and hands suggest embolic
   events (ex. endocarditis) as a possibility.
   PERICARDIAL EFFUSION -- concern for pericarditis or myocarditis.
   Concern for increased pericardial effusion.  Await final interpretation
   of cardiac echo to assess for tamponade.
   TACHYCARDIA -- likely due to pericaidial effusion/tamponade, and
   component of hypovolemia, sepsis.  Consider component of thyroid
   replacement therapy.  Monitor.
   FLUIDS -- continue resussitation.  Monitor CVP (athough CVP elevation
   may be due to pericardial fluid).
   CHEST PAIN -- intermittent, with diffuse EKG changes (suspect
   pericarditis).  No evidence for acute MI.
   LEGS & SCROTAL ERYTHEMA -- concern for cellulitis --> empirical
   antimicrobials.  Plastic surgery consulted.
   LFT abnormalities -- Alk Phos WNL; monitor serial LFT, low threshold
   for check RUQ US.
   LYMPHOMA, spinal -- continue steroids
   SPINA BIFIDA -- no acute issues.
   RIGHT FOOT ULCER, chronic -- concern as source for sepsis.  Deep
   lesion.  Surgery to F/U.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-11-10**] 08:36 PM
   18 Gauge - [**2165-11-10**] 08:38 PM
   Multi Lumen - [**2165-11-11**] 12:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Discussed plan and updated medical condition
   with patient.
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2165-11-12 05:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Blood cx group G beta Strep; GNR in urine
   Derm: Rash on forehead/trunk/back is acne from steroids, rash on hands
   and lips is herpes. Started Benzoyl peroxide, clindamycin cream,
   acyclovir (x7days). Sent DFA, wound scraping
   ID: Continue current Abx, treat herpes, tap knee since has effusions,
   don't want to tap pericardial effusion since small to moderate; Treat
   Thrush/esophagitis
   Podiatry: Get foot film, will staff in am
   Plastics: Defer surgical management to Podiatry
   CT foot:
   1. Large ulcer involving the posterolateral aspect of the right foot
   with a
   3.5-cm region of exposed fifth metatarsal. Osteomyelitis is likely
   given that
   there is exposed bone to the surrounding air. There is gas seen
   extending
   along the fifth metatarsal shaft slight dorsally within the soft
   tissues of
   the foot.
   2. Postoperative changes throughout the mid and hindfoot as described
   above
   with neuropathic changes seen at the midfoot.
   Arthrocentesis Left Knee performed: cloudy-SS fluid, no WBCs, cx
   pending
   Lactate 2.5 from 3 from 2.8
   Has lumbar lipoma, not lymphoma. Steroids decreased by [**1-24**] since
   affecting healing, ? utility. Spoke with outpatient neurologist Dr.
   [**First Name (STitle) 1226**]
   [**Name (STitle) **] D/C'd (too much acetaminophen with perc, tylenol, and darvo).
   Has morphine for breakthrough
   Fluc added for esophagitis/thrush; ? Consult GI for EGD for candidal
   esophagitis. NPO p MN in case has EGD
   Trending HCT: slowly trending down
   Patient reports he feels
lousy
  from previous day. Reports chest
   discomfort;; no abdominal pain; decreased pain in extremities.
   Allergies:
   Ativan (Oral) (Lorazepam)
   Unknown; 3 out
   Latex
   Unknown; Rash;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2165-11-11**] 06:22 AM
   Piperacillin/Tazobactam (Zosyn) - [**2165-11-11**] 08:00 AM
   Vancomycin - [**2165-11-11**] 08:00 PM
   Piperacillin - [**2165-11-12**] 12:00 AM
   Clindamycin - [**2165-11-12**] 12:31 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-11-11**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-12**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 106 (106 - 132) bpm
   BP: 118/65(77) {109/54(66) - 143/83(94)} mmHg
   RR: 10 (10 - 29) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.6 kg (admission): 82.6 kg
    CVP: 11 (6 - 15)mmHg
   Total In:
                                                                  5,131 mL
                                                                    405 mL
   PO:
                                                                  2,480 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,651 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                  3,770 mL
                                                                    560 mL
   Urine:
                                                                  3,770 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,361 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 92%
   ABG: ////
   Physical Examination
   Gen: Anxious, [**Year (4 digits) 883**], sitting up in bed, NAD.
   HEENT: PERRL 3
4, EOMI, symmetric; MMM, mild erythetamous papules over
   scalp; no thrush appreciate,
   PULM: CTAB, no WRR.
   CV: Tachycardia, clear S1/S2 without m/g, mild friction rub best
   appreciated over LUSB
   Abd: Mildly distended, +BS, soft, NT, no palpable masses; decreased
   erythema in lower abdomen along hypogastrum and decreased erythema L
   flank compared to yest
   Back: No open lesions; 1-2mm papular lesions diffusely
   GU: Erythematous/edematous (improved from yesterday) and mildly TTP
   scrotum
   Ext: WWP, lower extremity size asymmetry; LLE with erythema improved
   from yesterday- tenderness from knee inferiorly improved; RLE with
   decreased erythema; 4x3cm poorly healing ulcer R foot base with
   white/green lesion 1x1.5 medially with no changes compared to
   yesterday.
   Skin: Crusting lesions on R eyebrow, R upper lip and R anterior neck;
   diffuse pustular and papular rash as above on back/chest/forehead;
   several shallow/dry yellow ulcerations on L hand with adjacent
   pustules, 2x3cm crusting lesion over right neck, ulcerations with
   yellow crusting over right upper lip and forehead
   Neuro: [**Last Name (LF) 883**], [**First Name3 (LF) **], follows commands, CNII-XII grossly intact.
   Labs / Radiology
   255 K/uL
   9.9 g/dL
   138 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   19 mg/dL
   102 mEq/L
   136 mEq/L
   28.3 %
   12.7 K/uL
        [image002.jpg] Lactate 2.5; Joint Fluid-WNL (WBC-38, RBC [**Numeric Identifier 2889**],
   Poly 80, No Crystal); LFTs trending down; T3-48 (low) and free T4 0.96
   (WNL)
   Joint Fluid: GS-no PMLs, no microorg, Cx-pending    R foot swab: GS no
   PMLs, 3+ GPC, in pairs and chains; Cx-pending; BCx from [**11-11**] pending;
   Urine Cx (from [**11-10**]): GNR, klebsiella; HSV 1 + cx on lip/finger swab.
                            [**2165-11-10**]  11:00 PM
                            [**2165-11-11**]  03:49 AM
                            [**2165-11-11**]  04:56 PM
   WBC
   9.6
   13.0
   Hct
   30.7
   28.8
   Plt
   290
   277
   Cr
   0.6
   TropT
   <0.01
   <0.01
   Glucose
   138
   Other labs: CK / CKMB / Troponin-T:87/15/<0.01, ALT / AST:162/44, Alk
   Phos / T Bili:58/0.2, Lactic Acid:2.5 mmol/L, Albumin:2.0 g/dL, LDH:462
   IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   45 yo M, recently diagnosed with h/o spina bifida and peripheral
   neuropathy with chronic RLfoot ulcer, recently diagnosed L-spine lipoma
   and immunosupressed on Decadron x 5 weeks, p/w b/l LE cellulitis and CP
   several days, admitted for sepsis.
   # Sepsis: Pt presented to ED with tachycardia, elevated bands, and
   +Group G Streptococcal bacteremia c/w sepsis; no evidence of organ
   hypoperfusion. Source of infection most likely related to patient
   chronic RLE ulcer with resulting cellulitis in setting of
   immunosupression on Decadron for past 5 weeks and given recent changes
   in R foot. ?Fungemia. UCx-+ Klebsiella. HD: CVP about >10, MAP >65, yet
   pt continues to be tachycardic. Afebrile O/N. Lactates trending down.
   WBC elevated. +5.3 LOS balance
   - Appreciate Derm, ID, Plastics, Podiatry, Surgery recs
   - Continue Vancomycin, Zosyn and Clindamycin; Check Vanco trough before
   4^th dose to ensure range of 15-20.
   - Fluconazole 200mg PO q24hr
   - Continue IVF boluses as needed for HD stability, access currently
   with 2 PIV x 18 and x20g; CVL in R SCL
   - Follow-up all cultures
   - Decreased steroids to 3mg TID.
   - Warm pack to right arm
# R foot ulcer/Osteomyelitis: Chronic issue over past 7yrs. Ulcer at proximal po
rtion of 5th metatarsal base and portion of the cuboid. Well known to plastics/s
urgery. Secondary to neuopathy from spina bifida and tethered cord syndrome. CT
of foot yest reveals probable OM.
   - Appreciate Plastics/Podiatry inputs
   - Antibiotics as above
   - FXR today
   - daily wet to dry dressing changes
   - f/u wound culture/biopsy
   #HSV: Presents with hand and upper lip ulcerations in setting of
   immunosuppression. DFA + HSV1.
   -F/u viral cx
   -Acyclovir 400mg 5x/day x7days
   -Monitor BUN/Cr/UOP for renal changes
   #Odynophagia: Considering h/o oral thrush and current odynophagia,
   possible candidia esophagitis. Also considering HSV esophagitis
   considering patient has HSV + lesions on lip and lesion on hard/soft
   pallate. Ruled out of MI to date. Seen by ID.
   -          Fluconazole 200mg PO qday; Acyclovir 400mg 5x/day x7days.
   -          Will d/w GI and possibly obtain EGD.
   #Knee Pain: Pt reports having increased bil (L>R) knee pain with
   decreased ROM immunosuppression and bacteremia, ?septic arthritis;
   tapped yesterday, culture pending, minimal WBC.
   -F/u Culture results
   -Continue Abx regimen as above
   # Chest pain: Likely [**2-23**] pericarditis vs myositis.  With regards to
   pericarditis, etiology most likely infectious.   MI ruled out. EKG most
   consistent with diffuse process such as pericarditis. Bedside ECHO:
   normal LV fxn, LVEF>55%, mild MR, mod posterior pericardial effusion,
   no signs of tamponade. Formal ECHO not performed.
   - RO
ed MI by cardiac enzymes
   - Monitor on telemetry
   - Formal ECHO today
   - Cardiology recs if condition changes.
   - Ibuprofen scheduled for pericarditis (could also use indomethacine or
   colcicine)
   - Pain management with Morphine PRN, Percocet, Acetaminophen
   # Tachycardia: Likely [**2-23**] multiple etiologies including systemic
   inflammatory response/sepsis, pain, anxiety, and pericarditis, recent
   increase in levothyroxine.  No evidence of tamponade on bedside Echo in
   ED.  Ruled out of MI.  Tox screen neg.  Not on beta blocker so unlikely
   to be having rebound.  Does have h/o hypothyroidism, TSH low, T3/T4
   low/normal c/w subclinical hyperthyroidism.
   - IVF PRN
   - Ibuprofen for pericarditis
   - [**Month/Day (2) **] for pain, Morphine PRN
   # Bandemia: Likely from cellulitis as above.  Other possible sources
   including urine, pleural effusion or pericardial effusion.
   - Follow-up urine/blood cultures &  Antibiotics as above
   #Transaminitis: Moderate elevation c/w possible infection or decreased
   perfusion related to sepsis or medication induced.
   -Continue to trend LFTs
   #Hypothyroidism: TSH <0.02. Free T4 (WNL) and T3 (low) c/w subclinical
   hyperthyroidism. Reports recent change in levothyroxine (175mcg) qday
   which could exacerbate tachycardia and changes in labs may not be
   apparent so close to change in dosage.
   -Clarify home doses of thyroid medication with PCP at some point during
   admission.
   -recheck TFTs if tachycardia continues
   # L-spine Lipoma: States to have been dx about 6 weeks prior.  Spoke
   with [**Doctor Last Name 1226**] (Neurology) at [**Hospital1 **] yesterday.  On decadron x 5-6 weeks
   for cord compression. Spinal cord decompression in [**Month (only) 3**] at [**Hospital1 2898**].
   - Weaned yest to 3mg TID given concern for diffuse infection
   - Hold stress dose steroids unless develops septic physiology
   # Neurogenic Bladder: Continue oxybutyin.  Foley catheter in place.
   # Acne: Back, anterior chest wall, forehead.  Likely [**2-23**] bacterial
   overgrowth since the decadron although could be fungal related.
   -          Appreciate derm consult
   -          Benzoyl Peroxide 10% gel; clindamycin topical 1% lotion [**Hospital1 7**]
   #Spina bifida/tethered cord syndrome: No new issues. Possible
   contributing to chronic bilateral LE neuropathy.
   -Monitor for changes in neuron status
   PPx: bowel regimen PRN, hold pneumboots, heparin SC
   FEN: IVF x 4L, replete PRN, clears
   Access: PIV x 2 (18,20). R SCL CVL
   Code Status:  FULL (confirmed on admission)
   Communication: [**Name (NI) **], girlfriend, [**Telephone/Fax (1) 2840**] (home) or [**0-0-**]
   (cell)
   Dispo: Call out to floor as HD stable.
   [**First Name8 (NamePattern2) 453**] [**Last Name (NamePattern1) 2538**] MSIV

2165-11-12 11:20:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 WOUND CULTURE - At [**2165-11-11**] 08:54 PM
   derm took scraping of hand wounds
 WOUND CULTURE - At [**2165-11-11**] 09:52 PM
   culture asp of left knee, fluid slightly cloudy
   States to feel improved overall, although somewhat fatigued today.
   Minimal chest discomfort.
   Allergies:
   Ativan (Oral) (Lorazepam)
   Unknown; 3 out
   Latex
   Unknown; Rash;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2165-11-11**] 06:22 AM
   Piperacillin/Tazobactam (Zosyn) - [**2165-11-11**] 08:00 AM
   Clindamycin - [**2165-11-12**] 12:31 AM
   Piperacillin - [**2165-11-12**] 08:00 AM
   Vancomycin - [**2165-11-12**] 08:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-11-11**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-11-12**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36
C (96.8
   HR: 105 (105 - 129) bpm
   BP: 117/69(80) {111/54(66) - 143/83(94)} mmHg
   RR: 10 (10 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.6 kg (admission): 82.6 kg
   CVP: 9 (5 - 15)mmHg
   Total In:
                                                                  5,131 mL
                                                                    838 mL
   PO:
                                                                  2,480 mL
                                                                    280 mL
   TF:
   IVF:
                                                                  2,651 mL
                                                                    558 mL
   Blood products:
   Total out:
                                                                  3,770 mL
                                                                  1,150 mL
   Urine:
                                                                  3,770 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,361 mL
                                                                   -312 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Pericardial friction rub more evident today.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): O x 3, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   255 K/uL
   104 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.7 mEq/L
   15 mg/dL
   101 mEq/L
   136 mEq/L
   28.3 %
   14.2 K/uL
        [image002.jpg]
                            [**2165-11-10**]  11:00 PM
                            [**2165-11-11**]  03:49 AM
                            [**2165-11-11**]  04:56 PM
                            [**2165-11-12**]  02:58 AM
   WBC
   9.6
   13.0
   14.2
   Hct
   30.7
   28.8
   28.3
   Plt
   290
   277
   255
   Cr
   0.6
   0.5
   TropT
   <0.01
   <0.01
   Glucose
   138
   104
   Other labs: PT / PTT / INR:12.7/25.9/1.1, CK / CKMB /
   Troponin-T:87/15/<0.01, ALT / AST:162/44, Alk Phos / T Bili:58/0.2,
   Lactic Acid:2.5 mmol/L, Albumin:2.0 g/dL, LDH:462 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Microbiology: Blood culture group G beta-strept
   Assessment and Plan
   Sepsis.
   RESPIRATORY DISTRESS -- improved.  Monitor RR, SaO2.
   SEPSIS -- cellulitis (thighs and scrotum, flanks) and osteomyelitis of
   right foot.  Continue current management.
   RASH -- truck rash attributed to steroids (acne); oral and right hand
   rash attributed to HSV type 1.
   OSTEO -- right foot, with evidence for subcutaneous air.  Surgery and
   Podiatry following.  continue dressings and antimicrobials.
   Lip and hand lesions/ulcers -- attributed to Herpetic erruption.
   Possible extension to esophogus.  Acyclovir.
   FLUIDS -- hypovolemia.  Plan to contine to replete to CVP >8 monitoring
   BP and HR, UO.
   RENAL FUNCTION -- improved.  Monitor UO, BUN, creatinine.
   DYSPHAGIA/ODYNOPHAGIA -- possible HSV vs. [**Female First Name (un) **] infection.  For EGD
   to confirm.
   PAIN CONTROL -- improved control.  h/o substance abuse.  continue
   current regimen.
   SEROSITIS -- pericardial effusion, joint effusions (knees), may be
   related to infectious etiology (reactive inflammatory).
   PERICARDIAL EFFUSION
 repeat echo to assess in greater detail (urgent
   echo performed overnight).
   TACHYCARDIA -- related to volume, thyroid replacement therapy,
   pericardial effusion.
   HYPOTHYROIDISM -- concern that current dose may be excessive, and
   contributing to tachycardia.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-11-10**] 08:36 PM
   18 Gauge - [**2165-11-10**] 08:38 PM
   Multi Lumen - [**2165-11-11**] 12:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Updated plans with patient.
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill